US04398939
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-4-methyl-3-thiophenesulfonamide
A solution of 2 g of 4-methyl-3-thiophenesulfonyl isocyanate in 5 ml of dry acetonitrile was added to 1.5 g of 2-amino-4,6-dimethoxypyrimidine in 20 ml of acetonitrile with stirring. The mixture was stirred for 16 hours at ambient temperature and filtered to yield 1.5 g of the desired product, m.p. 175°-178°.

reactant | 4-methyl-3-thiophenesulfonyl isocyanate | 2 g | CC=1C(=CSC1)S(=O)(=O)N=C=O | C6H5NO3S2
reactant | 2-amino-4,6-dimethoxypyrimidine | 1.5 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-4-methyl-3-thiophenesulfonamide | 1.5 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=CSC=C1C | C12H14N4O5S2
